US07608637B2
(4R)-4-t-Butoxycarbonylamino-4-formylbutanoic acid ethyl ester
Under atmosphere of argon, to a solution of (4R)-5-hydroxy-4-t-butoxycarbonylaminopentanoic acid ethyl ester (15.0 g), triethylamine (32.0 mL) and dimethylsulfoxide (39 mL) in ethyl acetate (120 mL), a solution of sulfur trioxide pyridine complex (18.3 g) in mixed solvent ethyl acetate (30 mL) and dimethylsulfoxide (75 nL) was added at 0° C., and the mixture was stirred for 1 hour. The reaction mixture was added by water (5 mL) at 0° C. and was added by 1N hydrochloric acid (240 mL). Separated aqueous layer was extracted by ethyl acetate. The combined organic layer was washed with water and brine successively, dried over an anhydrous sodium sulfate, concentrated under reduced pressure to give the title compound (14.7 g) having the following physical data.

reactant | (4R)-5-hydroxy-4-t-butoxycarbonylaminopentanoic acid ethyl ester | 15.0 g | C(C)OC(CC[C@H](CO)NC(=O)OC(C)(C)C)=O | C12H23NO5
reactant | triethylamine | 32.0 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 39 mL | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 75 nL | CS(=O)C | C2H6OS
reactant | hydrochloric acid | 1N, 240 mL | Cl | ClH
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | (4R)-4-t-Butoxycarbonylamino-4-formylbutanoic acid ethyl ester | 14.7 g | C(C)OC(CC[C@H](C=O)NC(=O)OC(C)(C)C)=O | C12H21NO5
